US05856517
1-Methyl-6-cyanoindole (3.12 g, 21.9 mmole) was heated at reflux in 180 mL of ethanol/water (8:1) containing 15 g of potassium hydroxide to give 3.0 g of 1-methyl-1H-indole-6-carboxylic acid as a white solid.

reactant | 1-Methyl-6-cyanoindole | 21.9 mmole, 3.12 g | CN1C=CC2=CC=C(C=C12)C#N | C10H8N2
reactant | potassium hydroxide | 15 g | [OH-].[K+]
reactant | ethanol water | 180 mL | C(C)O.O
product | 1-methyl-1H-indole-6-carboxylic acid | 3.0 g | CN1C=CC2=CC=C(C=C12)C(=O)O | C10H9NO2
